US04581370
1-[4-(2,3-Dichlorophenyl)butyl]-3-heptylimidazolium chloride
A solution of 17 g (0.042 mole) 1-[4-(2,3-dichlorophenyl)-2-butenyl]-3-heptylimidazolium chloride in 250 ml absolute ethanol and 1.5 g 10% Pd/C catalyst are placed in a small Parr bottle, and hydrogenated at 25 psi for ca. 2 hours. Additional H2 is added as needed to maintain 25 psi pressure. The reaction mixture is filtered and the solvent is evaporated to provide the title compound.

reactant | 1-[4-(2,3-dichlorophenyl)-2-butenyl]-3-heptylimidazolium chloride | 0.042 mole, 17 g | [Cl-].ClC1=C(C=CC=C1Cl)CC=CC[N+]1=CN(C=C1)CCCCCCC
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | 1-[4-(2,3-Dichlorophenyl)butyl]-3-heptylimidazolium chloride | [Cl-].ClC1=C(C=CC=C1Cl)CCCC[N+]1=CN(C=C1)CCCCCCC | InChI=1S/C20H29Cl2N2.ClH/c1-2-3-4-5-7-13-23-15-16-24(17-23)14-8-6-10-18-11-9-12-19(21)20(18)22;/h9,11-12,15-17H,2-8,10,13-14H2,1H3;1H/q+1;/p-1
